US05491145
Production of 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)imidazo[1,2-b]pyridazine hydrochloride
0.421 g of 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)imidazo[1,2-b]pyridazine was suspended in 20 ml of ethanol. To this suspension, 1.65 ml of 1 N hydrochloric acid was added. After the resulting solution was concentratedunder reduced pressure, ethyl ether was added to the residue to cause crystallization, to yield 0.45 g of the title compound.

reactant | 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)imidazo[1,2-b]pyridazine | 0.421 g | CC1=C(C=2N(N=C1OCC(CS(N)(=O)=O)(C)C)C=CN2)C | C13H20N4O3S
reactant | hydrochloric acid | 1 N, 1.65 ml | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7,8-dimethyl-6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)imidazo[1,2-b]pyridazine hydrochloride | 0.45 g | Cl.CC1=C(C=2N(N=C1OCC(CS(N)(=O)=O)(C)C)C=CN2)C | InChI=1S/C13H20N4O3S.ClH/c1-9-10(2)12(16-17-6-5-15-11(9)17)20-7-13(3,4)8-21(14,18)19;/h5-6H,7-8H2,1-4H3,(H2,14,18,19);1H
